US07592477B2
Step b) Formation of N-[2-(3-chlorophenyl)ethyl]-N-(4-dodec-1-ynylbenzyl)amine hydrochloride
The same procedure as employed in the preparation of Example 226 (step a) but using [2-(3-chlorophenyl)ethyl]amine and 4-dodec-1-ynylbenzaldehyde gave the title compound as a white powder (50%). 1H NMR (DMSO-dr, 300 MHz) δ 9.27 (br s, 1H), 7.51-7.24 (m, 8H), 4.15 (br s, 2H), 3.14 (br s, 2H), 2.98 (m, 2H), 1.99 (m, 2H), 1.55-1.40 (m, 16H), 0.85 (t, 3H, J=6.6 Hz). M−(LC/MS(ESI)): 411. HPLC (Condition A), Rt: 5.30 min (HPLC purity: 99.9%).

reactant | [2-(3-chlorophenyl)ethyl]amine | ClC=1C=C(C=CC1)CCN | C8H10ClN
reactant | 4-dodec-1-ynylbenzaldehyde | C(#CCCCCCCCCCC)C1=CC=C(C=O)C=C1 | C19H26O
product | N-[2-(3-chlorophenyl)ethyl]-N-(4-dodec-1-ynylbenzyl)amine hydrochloride | 50% | Cl.ClC=1C=C(C=CC1)CCNCC1=CC=C(C=C1)C#CCCCCCCCCCC | InChI=1S/C27H36ClN.ClH/c1-2-3-4-5-6-7-8-9-10-11-13-24-16-18-26(19-17-24)23-29-21-20-25-14-12-15-27(28)22-25;/h12,14-19,22,29H,2-10,20-21,23H2,1H3;1H
